US07193092B2
Bis-(2,4-dimethylphenyl)chlorophosphine (B42):
A solution of 2.92 ml (2161 mmol) of 4-bromo-1,3-dimethylbenzene in 3 ml of Et2O were added at 0° C. to a suspension of 0.5 g (20.56 mmol) of magnesium turnings in 7 ml of THF and 7 ml of Et2O and also a crystal of iodine. The mixture was heated to room temperature, stirred further overnight and slowly added dropwise at 0° C. to a solution of 1.5 ml (10.31 mmol) of Et2NPCl2 in 8 ml of THF. The mixture was heated to room temperature and the solvent was subsequently removed under reduced pressure. After adding 60 ml of hexane, the mixture was filtered through Celite under argon and admixed with hydrogen chloride for 1 hour. After degassing, the resulting solids were filtered off under argon and dried. Yield: 1.4 g (58.3% of theory). 1H NMR (400 MHz, CDCl3) δ, 7.40 (d, Jmeta=4.5 Hz, 2H, arom.), 7.2 (m, 4H, arom.), 2.5 (d, JPH=2.0 Hz, 6H, CH3), 2.4 (s, 6H, CH3). 31P NMR (161.974 MHz, CDCl3) δ, 75.6.

reactant | 4-bromo-1,3-dimethylbenzene | 2161 mmol, 2.92 ml | BrC1=C(C=C(C=C1)C)C | C8H9Br
reactant | magnesium | 20.56 mmol, 0.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | Et2NPCl2 | 10.31 mmol, 1.5 ml | N(CC)(CC)P(Cl)Cl | C4H10Cl2NP
solvent | Et2O | 3 ml | CCOCC | C4H10O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | Et2O | 7 ml | CCOCC | C4H10O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | Bis-(2,4-dimethylphenyl)chlorophosphine | CC1=C(C=CC(=C1)C)P(Cl)C1=C(C=C(C=C1)C)C | C16H18ClP
